US07618985B2
To a solution of 6-(piperidin-3-yloxy)isoquinolin-1-ylamine (30 mg, 123 μmol) in DMF (1 ml) was added potassium carbonate (18 mg, 129 μmol) followed by a solution of (2-bromoethoxy)benzene (26 mg, 129 μmol) in acetonitrile (0.5 ml). The mixture was stirred for 16 h at ambient temperature, then the solvent removed in vacuo and aqueous sodium hydrogen carbonate added. The mixture was extracted with chloroform/iso-propanol (3:1), dried (magnesium sulphate) and concentrated in vacuo to give a residue. The residue was purified by prep-HPLC to give 6-[1-(2-phenoxyethyl)piperidin-3-yloxy]-isoquinolin-1-ylamine (12.5 mg) El-MS: m/z=364.8 [M+H]+.

reactant | 6-(piperidin-3-yloxy)isoquinolin-1-ylamine | 123 μmol, 30 mg | N1CC(CCC1)OC=1C=C2C=CN=C(C2=CC1)N | C14H17N3O
reactant | potassium carbonate | 129 μmol, 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethoxy)benzene | 129 μmol, 26 mg | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | 6-[1-(2-phenoxyethyl)piperidin-3-yloxy]-isoquinolin-1-ylamine | 12.5 mg | O(C1=CC=CC=C1)CCN1CC(CCC1)OC=1C=C2C=CN=C(C2=CC1)N | C22H25N3O2
